Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Morbid obesity
 
Major Surgical or Invasive Procedure:
___: 
1. Laparoscopic repair of paraesophageal hernia.
2. Laparoscopic adjustable gastric band.

 
History of Present Illness:
Per Dr. ___ has class III morbid obesity with 
___ of 238.4 pounds as of ___ with initial screen ___ 
of 241.4 pounds on ___, height is 64 inches and BMI of 40.9. 
 Her previous ___ loss efforts have included ___ Watchers, 
___ Loss, Slim-Fast, over-the-counter pancreatic lipase 
inhibitor ___ visits.  She has lost up to 20 pounds but 
unable to maintain the ___.  Her lowest ___ as an adult 
was 180 pounds and her highest ___ was her initial screen 
___ of 241.4 pounds.  She weighed 225.4 pounds ___ years ago 
and 235 pounds one year ago.  She stated that she has been 
struggling with ___ since ___ years of age and cites as 
factors contributing to her excess ___ genetics, inconsistent 
meal pattern, late night eating, large portions, too many 
carbohydrates, grazing and emotional eating at times.  For 
exercise she does ___ one hour ___ times per week, elliptical 
___ minutes ___ times per week and some kettle bell training. 
She denied history of eating disorders and does have depression,
has not been seen by a therapist nor has she been hospitalized 
for any mental health issues and she is not on any psychotropic 
medications at this time.

 
Past Medical History:
PMHx: Hyperlipidemia and with elevated triglyceride, iron
deficiency anemia, irritable bowel syndrome, allergic rhinitis,
dysmenorrhea, vitamin D deficiency, question of hypothyroidism
with elevated TSH level, thalassemia trait, fatty liver and
cholelithiasis by ultrasound study. A history of kissing tonsils
that was associated with obstructive sleep apnea and
gastroesophageal reflux, these have resolved completely after 
the
tonsillectomy in ___. History of polycystic ovary
syndrome
 
Family History:
bladder CA; with diabetes, breast neoplasia, colon CA, ovarian 
CA and sarcoma
 
Physical Exam:
VSS
Constitutional: NAD
Neuro: Alert and oriented x 3
Cardiac: RRR, NL S1,S2
Lungs: CTA B
Abd: Obese, soft, non-distened, appropriate ___ 
tenderness, no rebound tenderness/guarding
Wounds: Abd lap sites with primary dsg, slight serosanguinous 
staining x 1, no periwound erythema
Ext: No edema
 
Pertinent Results:
LABS:
___ 09:20AM BLOOD WBC-9.8 RBC-5.19 Hgb-14.0 Hct-41.9 
MCV-81* MCH-27.0 MCHC-33.5 RDW-13.5 Plt ___
___ 09:20AM BLOOD Plt ___

___ UGI SGL CONTRAST W/ KUB:
IMPRESSION: Slightly horizontally positioned lap band with a 
patent stoma and no evidence of leak. 

 
Brief Hospital Course:
Ms. ___ presented to ___ on ___. Pt was 
evaluated by anaesthesia and taken to the operating room where 
she underwent a laparoscopic adjustable gastric band placement 
and repair of paraesophageal hernia. There were no adverse 
events in the operating room; please see the operative note for 
details. Pt was extubated, taken to the PACU until stable, then 
transferred to the ward for observation. 

Post-operatively, the patient remained afebrile with stable 
vital signs.  The patients pain was well controlled with oral 
Roxicet prn.  The patient remained stable from both a 
cardiovascular and pulmonary standpoint; she was maintained on 
CPAP overnight for known sleep apnea.  The patient was initially 
on a bariatric stage 1 diet, but was made NPO at ___ POD1 for an 
UGI series.  The UGI was negative for leak or obstruction, 
therefore, the patient's diet advanced sequentially to bariatric 
stage 3 and well tolerated; pts intake and output were closely 
monitored.  Urine output remained adequate throughout the 
hospitalization.  The received subcutaneous heparin and venodyne 
boots were used during admission; early and frequent ambulation 
were strongly encouraged.

The patient was subsequently discharged to home on POD1.  The 
patient received discharge teaching and follow-up instructions 
with understanding verbalized and agreement with the discharge 
plan. She will follow-up with Dr. ___ the bariatric 
dietitian in clinic in 2 weeks.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Multivitamins W/minerals 1 TAB PO DAILY 
2. Ascorbic Acid ___ mg PO DAILY 
3. cholecalciferol (vitamin D3) *NF* 3,000 unit Oral daily 
4. Cyclobenzaprine ___ mg PO TID:PRN muscle spasms 

 
Discharge Medications:
1. OxycoDONE-Acetaminophen Elixir ___ mL PO Q4H:PRN Pain 
RX *oxycodone-acetaminophen [Roxicet] 5 mg-325 mg/5 mL ___ ml 
by mouth every four (4) hours Disp #*250 Milliliter Refills:*0
2. Docusate Sodium (Liquid) 100 mg PO BID:PRN Constipation 
RX *docusate sodium 50 mg/5 mL ___ ml by mouth twice a day Disp 
#*250 Milliliter Refills:*0
3. Ascorbic Acid ___ mg PO DAILY 
4. cholecalciferol (vitamin D3) *NF* 3,000 unit Oral daily 
5. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Morbid obesity
Obstructive sleep apnea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions: Please call your surgeon or return to 
the emergency department if you develop a fever greater than 
101.5, chest pain, shortness of breath, severe abdominal pain, 
pain unrelieved by your pain medication, severe nausea or 
vomiting, severe abdominal bloating, inability to eat or drink, 
foul smelling or colorful drainage from your incisions, redness 
or swelling around your incisions, or any other symptoms which 
are concerning to you.

Diet: Stay on Stage III diet until your follow up appointment. 
Do not self advance diet, do not drink out of a straw or chew 
gum.

Medication Instructions:
Resume your home medications except please do not take your 
cyclobenzaprine while taking pain medicaiton.

CRUSH ALL PILLS.
You will be starting some new medications:
1.  You are being discharged on medications to treat the pain 
from your operation. These medications will make you drowsy and 
impair your ability to drive a motor vehicle or operate 
machinery safely. You MUST refrain from such activities while 
taking these medications.
2. You should begin taking a chewable complete multivitamin with 
minerals. No gummy vitamins.
3. You should take a stool softener, Colace, twice daily for 
constipation as needed, or until you resume a normal bowel 
pattern.
4. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) Examples are Ibuprofen, Motrin, Aleve, Nuprin and 
Naproxen. These agents will cause bleeding and ulcers in your 
digestive system.

Activity:
No heavy lifting of items ___ pounds for 6 weeks. You may 
resume moderate exercise at your discretion, no abdominal 
exercises.

Wound Care:
You may shower, no tub baths or swimming. 
If there is clear drainage from your incisions, cover with 
clean, dry gauze. 
Your steri-strips will fall off on their own. Please remove any 
remaining strips ___ days after surgery.
Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites. 

 
Followup Instructions:
___